US08563742B2
3-[1-(5-methyl-thiophen-2-ylmethyl)-thioureido]-propionic acid tert-butyl ester (100 mg, 0.318 mmol) in MeOH (about 4 mL) was treated with two portions of 2-Bromo-1-(trans-4-tert-butyl-cyclohexyl)-ethanone (2×83 mg, 2×0.318 mmol) (second addition spaced at an interval of 2 hours after first portion) at 60° C. following a method analogous to General Procedure C to produce 3-[[4-(trans-4-tert-Butyl-cyclohexyl)-thiazol-2-yl]-(5-methyl-thiophen-2-ylmethyl)-amino]propionic acid tert-butyl ester (158 mg). which was isolated by a workup that included evaporation of the solvent and partitioning the resulting material between EtOAc and saturated aq sodium bicarbonate solution. Extraction of the aq sodium bicarbonate layer with EtOAc (2 times), drying the combined organic portion over sodium sulfate and evaporation of the solvent gave the crude material which was purified using silica gel chromatography (eluent hexanes→19:1 ethyl acetate:hexanes→9:1 ethyl acetate:hexanes).

reactant | 3-[1-(5-methyl-thiophen-2-ylmethyl)-thioureido]-propionic acid tert-butyl ester | 0.318 mmol, 100 mg | C(C)(C)(C)OC(CCN(C(=S)N)CC=1SC(=CC1)C)=O | C14H22N2O2S2
reactant | 2-Bromo-1-(trans-4-tert-butyl-cyclohexyl)-ethanone | 0.318 mmol, 83 mg | BrCC(=O)[C@@H]1CC[C@H](CC1)C(C)(C)C | C12H21BrO
solvent | MeOH | about 4 mL | CO | CH4O
product | 3-[[4-(trans-4-tert-Butyl-cyclohexyl)-thiazol-2-yl]-(5-methyl-thiophen-2-ylmethyl)-amino]propionic acid tert-butyl ester | 158 mg | C(C)(C)(C)OC(CCN(CC=1SC(=CC1)C)C=1SC=C(N1)[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C26H40N2O2S2
